US04514405
A mixture of 28.6 g of 6-chloro-9(β-D-ribofuranosyl)-purine, 14.2 g of o-chlorobenzyl amine, 400 ml of dimethylformamide, 400 ml of isopropanol and 50 ml of triethylamine is left to stand at 20° for 4 days. The mixture is evaporated, the residue is dissolved in chloroform, the chloroform solution is washed with 1% aqueous acetic acid and evaporated again and the residue is triturated with ether to give N6 -o-chlorobenzyl-adenosine (Ia). M.p.: 182°-183°.

reactant | 6-chloro-9(β-D-ribofuranosyl)-purine | 28.6 g | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H11ClN4O4
reactant | o-chlorobenzyl amine | 14.2 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | isopropanol | 400 ml | C(C)(C)O | C3H8O
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | N6 -o-chlorobenzyl-adenosine | ClC1=C(CNC=2C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N=CN2)C=CC=C1 | C17H18ClN5O4
